US06911458B2
N-{2-[(2-Methyl-2-oxiranyl)methoxy]phenyl}benzamide
A mixture of N-(2-hydroxyphenyl)benzamide (159 mg, 0.75 mmol), 2-(chloromethyl)-2-methyloxirane (1.60 g, 15 mmol), and benzyltriethylammonium chloride (27 mg, 0.12 mmol) was stirred at 70-75° C. for 6 h. After cooling to room temperature, water (2 ml) was added and the mixture was vigorously shaken. It was extracted with dichloromethane (2×5 ml), and the combined organic extracts were washed with aq. NaOH (2M, 5 ml) and water (10 ml). Drying with Na2SO4, evaporation of the solvent and flash chromatography on silica gel with n-heptane/ethyl acetate (ethyl acetate from 25 to 50%) afforded title compound as yellowish solid (131 mg, 0.46 mmol, 62%).

reactant | N-(2-hydroxyphenyl)benzamide | 0.75 mmol, 159 mg | OC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C13H11NO2
reactant | 2-(chloromethyl)-2-methyloxirane | 15 mmol, 1.60 g | ClCC1(OC1)C | C4H7ClO
catalyst | benzyltriethylammonium chloride | 0.12 mmol, 27 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 2 ml | O | H2O
product | N-{2-[(2-Methyl-2-oxiranyl)methoxy]phenyl}benzamide | 0.46 mmol, 131 mg, 62% | CC1(OC1)COC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C17H17NO3
